US08530461B2
(S)—N-(1-{4-[3-(4-tert-Butyl-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide
Under an argon atmosphere a mixture of 0.28 g (0.97 mmol) (S)—N-[1-(4-iodo-phenyl)-ethyl]-acetamide (III.1), 0.20 g (0.98 mmol) 3-(4-tert-butyl-phenoxy)-azetidine, 0.0093 g (0.049 mmol) CuI, 0.41 g (1.95 mmol) K3PO4 and 0.12 g (1.95 mmol) ethyleneglycol in 1.0 mL isopropanol is stirred for 12 h at 80° C. 100 mL Ethyl acetate are added and the mixture is washed with ammonia solution (5%, 2×). The aq. layer is extracted with ethyl acetate (1×) and the combined organic layers are dried (MgSO4) and concentrated in vacuo. The residue is purified by HPLC (XBridge, MeOH/water (+0.3% NH4OH)) to yield the desired product.

reactant | (S)—N-[1-(4-iodo-phenyl)-ethyl]-acetamide | 0.97 mmol, 0.28 g | IC1=CC=C(C=C1)[C@H](C)NC(C)=O | C10H12INO
reactant | 3-(4-tert-butyl-phenoxy)-azetidine | 0.98 mmol, 0.20 g | C(C)(C)(C)C1=CC=C(OC2CNC2)C=C1 | C13H19NO
reactant | K3PO4 | 1.95 mmol, 0.41 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | ethyleneglycol | 1.95 mmol, 0.12 g | C(CO)O | C2H6O2
solvent | isopropanol | 1.0 mL | C(C)(C)O | C3H8O
catalyst | CuI | 0.049 mmol, 0.0093 g | [Cu]I
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (S)—N-(1-{4-[3-(4-tert-Butyl-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | C(C)(C)(C)C1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(C)=O)C=C1 | C23H30N2O2
